US04001426
2-[4'-(2-Diethylaminoethoxy)phenyl]-5-methoxy-3-(3',5'-dimethylbenzoyl)benzofuran
Reaction of 2-[4'-(2-chloroethoxy)phenyl]-5-methoxy-3-(3',5'-dimethylbenzoyl)benzofuran with diethylamine by the procedure of Example 25 gives the title compound.

reactant | 2-[4'-(2-chloroethoxy)phenyl]-5-methoxy-3-(3',5'-dimethylbenzoyl)benzofuran | ClCCOC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC(=CC(=C1)C)C)=O)C=C(C=C2)OC | C26H23ClO4
reactant | diethylamine | C(C)NCC | C4H11N
product | 2-[4'-(2-Diethylaminoethoxy)phenyl]-5-methoxy-3-(3',5'-dimethylbenzoyl)benzofuran | C(C)N(CCOC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC(=CC(=C1)C)C)=O)C=C(C=C2)OC)CC | C30H33NO4
